US05091407
Sodium hydride (0.3 g, 0.0063 mol) was washed with petrol 60°-80° and suspended in dimethylformamide (DMF, 25 ml). The (E)-2-styrylpyrrole (1.0 g, 0.006 mol) in DMF (10 ml) was added dropwise at room temperature. After stirring for 11/2 hours, methyl bromoacetate (0.56 ml, 0.006 mol) in DMF (5 ml) was added dropwise. After 16 hours it was poured into water (200 ml) and extracted with ether (3×100 ml). The extracts were washed with brine dried and evaporated under reduced pressure to give a brown oil. Purification by column chromatography using silica gel with ethyl acetate: petrol 60°-80°, (1:1) as the eluent gave methyl (2-styrylpyrrol-1-yl)acetate (0.5 g, 30% yield) as a buff amorphous solid.

reactant | Sodium hydride | 0.0063 mol, 0.3 g | [H-].[Na+]
reactant | (E)-2-styrylpyrrole | 0.006 mol, 1.0 g | C(=C\C1=CC=CC=C1)/C=1NC=CC1 | C12H11N
reactant | methyl bromoacetate | 0.006 mol, 0.56 ml | BrCC(=O)OC | C3H5BrO2
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | DMF | 10 ml | CN(C=O)C | C3H7NO
solvent | DMF | 5 ml | CN(C=O)C | C3H7NO
product | methyl (2-styrylpyrrol-1-yl)acetate | 0.5 g, 30% yield | C(=CC1=CC=CC=C1)C=1N(C=CC1)CC(=O)OC | C15H15NO2
